US04486434
5-Bromo-2-(4-aminobutyl)-3-methylpyridine (2.12 g) and 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone (3.18 g) were refluxed in pyridine (12 ml) for 9.5 hrs. The pyridine was removed in vacuo and the residue was re-evaporated with n-propanol (2×50 ml), triturated with chloroform, filtered and the solution was chromatographed on silica in chloroform-methanol (10:1). The product was crystallised from ethanol-ether to give 2-[4-(5-bromo-3-methylpyrid-2-yl)-butylamino]-5-(6-methylpyrid-3-yl-methyl)-4-pyrimidone (2.44 g) m.p. 151°-152° C.

reactant | 5-Bromo-2-(4-aminobutyl)-3-methylpyridine | 2.12 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone | 3.18 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 2-[4-(5-bromo-3-methylpyrid-2-yl)-butylamino]-5-(6-methylpyrid-3-yl-methyl)-4-pyrimidone | 2.44 g | BrC=1C=C(C(=NC1)CCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C)C | C21H24BrN5O
